US08334292B1
Step 3: Preparation of tert-butyl 3-((2-(cis-4-methylcyclohexylamino)-5-(4-morpholinophenyl)pyrimidin-4-yloxy)methyl)azetidine-1-carboxylate
Using the procedure of Example 1 Step 3, tert-butyl 3-((2-(cis-4-methylcyclohexylamino)-5-bromopyrimidin-4-yloxy)methyl)azetidine-1-carboxylate was reacted with 4-morpholinophenylboronic acid to provide the title compound at 78% yield. 1H NMR (CDCl3, 400 MHz) 8.02 (s, 1H), 7.30 (d, 2H), 6.85 (d, 2H), 5.38 (sb, 1H), 4.41 (d, 2H), 4.07-3.80 (m, 3H), 4.79-3.70 (m, 5H), 3.11-3.09 (m, 4H), 2.95-2.88 (m, 2H), 1.76-1.45 (m, 6H), 1.44 (s, 9H), 1.20-1.16 (m, 3H), 0.87 (d, 3H); MS (ESI) m/z: Calc: 537.3 (M+). Found. 538.3 (M+1).

reactant | tert-butyl 3-((2-(cis-4-methylcyclohexylamino)-5-bromopyrimidin-4-yloxy)methyl)azetidine-1-carboxylate | C[C@H]1CC[C@H](CC1)NC1=NC=C(C(=N1)OCC1CN(C1)C(=O)OC(C)(C)C)Br | C20H31BrN4O3
reactant | 4-morpholinophenylboronic acid | O1CCN(CC1)C1=CC=C(C=C1)B(O)O | C10H14BNO3
product | tert-butyl 3-((2-(cis-4-methylcyclohexylamino)-5-(4-morpholinophenyl)pyrimidin-4-yloxy)methyl)azetidine-1-carboxylate | 78% yield | C[C@H]1CC[C@H](CC1)NC1=NC=C(C(=N1)OCC1CN(C1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)N1CCOCC1 | C30H43N5O4
